US07462614B2
A solution of 5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-amine hydrochloride (26 mg, 0.1 mmol), N-(4-bromophenyl)-N-methylurea (27 mg, 0.12 mmol), tris(dibenzylideneacetone)dipalladium (10 mg, 0.01 mmol), 2-(di-t-butylphosphino)biphenyl (10 mg, 0.03 mmol) and sodium t-butoxide (25 mg, 0.23 mmol) in dioxane (0.80 mL) was added to a Smithcreator microwave reaction vessal. The vessal was sealed, then heated in the Smithcreator microwave at 160° C. for 20 minutes. After cooling to room temperature, the mixture was purified by silica gel chromatography, eluting with 5% MeOH/DCM to give N-methyl-N-{4-[(5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-yl)amino]phenyl}urea (14 mg, 38%) as a yellow solid. 1H NMR (DMSO-d6): δ9.59 (s, 1H), 9.20 (s, 1H), 8.39-8.46 (m, 3H), 7.34-7.71 (m, 8H), 5.94 (d, J=4.67 Hz, 1H), 2.63 (d, J=4.53 Hz, 3H), 2.52 (s, 3H). MS m/z 373 (M+1).

reactant | 5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-amine hydrochloride | 0.1 mmol, 26 mg | Cl.CC=1N=C(N2N=C(N=CC21)N)C2=CC=CC=C2
reactant | N-(4-bromophenyl)-N-methylurea | 0.12 mmol, 27 mg | BrC1=CC=C(C=C1)N(C(=O)N)C | C8H9BrN2O
reactant | 2-(di-t-butylphosphino)biphenyl | 0.03 mmol, 10 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | sodium t-butoxide | 0.23 mmol, 25 mg | CC(C)([O-])C.[Na+]
solvent | dioxane | 0.80 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.01 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-methyl-N-{4-[(5-methyl-7-phenylimidazo[5,1-f][1,2,4]triazin-2-yl)amino]phenyl}urea | 14 mg, 38% | CN(C(=O)N)C1=CC=C(C=C1)NC1=NN2C(C=N1)=C(N=C2C2=CC=CC=C2)C | C20H19N7O
